US05922767
Synthesis of 4-(4-nitrobenzyloxy)phenylacetic acid:
After 3.15 g (10.0 mmol) of ethyl 4-(4-nitrobenzyloxy)phenylacetate were dissolved in a mixed solvent of 50 ml of methanol and 50 ml of 1,4-dioxane, 70 ml of a 1 N aqueous solution of sodium hydroxide were added, and the resultant mixture was stirred at room temperature for 2 hours. After completion of the reaction, the reaction mixture was acidified with diluted hydrochloric acid and extracted with chloroform. The resultant extract was then dried over anhydrous sodium sulfate. After distilling off chloroform under reduced pressure, deposited crystals were ground with ether, thereby obtaining 2.64 g (yield: 92.0%) of the intended compound as crystals.

reactant | ethyl 4-(4-nitrobenzyloxy)phenylacetate | 10.0 mmol, 3.15 g | [N+](=O)([O-])C1=CC=C(COC2=CC=C(C=C2)CC(=O)OCC)C=C1 | C17H17NO5
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | [OH-].[Na+]
product | 4-(4-nitrobenzyloxy)phenylacetic acid | 2.64 g, yield: 92.0% | [N+](=O)([O-])C1=CC=C(COC2=CC=C(C=C2)CC(=O)O)C=C1 | C15H13NO5
